US07157476B2
4-(1-isobutyl-4-methyl-1H-imidazole-2-yl)-1,2,5-oxadiazol-3-amine (I-81):
A mixture of 4-amino-N-isobutyl-1,2,5-oxadiazole-3-carboxamidine (38 mg, 0.2 mmol), 1-chloropropanone (37 mg, 0.4 mmol) and potassium carbonate (55 mg, 0.4 mmol) in DMF (0.5 mL) was microwaved for 20 minutes at 180° C. The crude mixture was purified via Gilson and then a flash pipette column to afford the title compound as a white solid 2.5 mg. HPLC Rt 5.6 min; MS 222.1 as M+1 peak; HPLC Method B Rt 3.4 min. 1HNMR (CDCl3) 6.94 (s, 1H); 5.73 (br, 2H); 4.15 (d, 2H); 2.3 (s, 3H); 2.15 (m, 1H); 0.95 (d, 6H).

reactant | 4-amino-N-isobutyl-1,2,5-oxadiazole-3-carboxamidine | 0.2 mmol, 38 mg | NC=1C(=NON1)C(=N)NCC(C)C | C7H13N5O
reactant | 1-chloropropanone | 0.4 mmol, 37 mg | ClCC(C)=O | C3H5ClO
reactant | potassium carbonate | 0.4 mmol, 55 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 4-(1-isobutyl-4-methyl-1H-imidazole-2-yl)-1,2,5-oxadiazol-3-amine | 2.5 mg | C(C(C)C)N1C(=NC(=C1)C)C=1C(=NON1)N | C10H15N5O
